US06071925
3-Benzyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p.>250° C. and MS: m/e=520.3, 522.3 (M+H+) was prepared in accordance with the general method of example 4 from 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and benzyl bromide.

reactant | 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H25Cl2N3O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-Benzyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C(C1=CC=CC=C1)N1CN(C2(C1=O)CCN(CC2)C2CC1=C(C=CC(=C1CC2)Cl)Cl)C2=CC=CC=C2 | InChI=1S/C30H31Cl2N3O.ClH/c31-27-13-14-28(32)26-19-24(11-12-25(26)27)33-17-15-30(16-18-33)29(36)34(20-22-7-3-1-4-8-22)21-35(30)23-9-5-2-6-10-23;/h1-10,13-14,24H,11-12,15-21H2;1H
